US04219551
7.5 mmol of 4-{4-methoxy- 3-[3-(4-phenylpiperazin-1-yl)-2-hydroxypropoxy]phenyl}-2-pyrrolidone is dissolved in 50 ml. of dry pyridine. After adding 15 mmol of acetic anhydride, the mixture is heated for 3 hours under reflux. After cooling, the reaction mixture is concentrated under vacuum. The residue is chromatographed over silica gel (acetone/dichloromethane 1:1) and recrystallized from isopropanol, thus obtaining in an 86% yield 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)-2-acetoxypropoxy]phenyl}-2-pyrrolidone, m.p. 128°-133°.

reactant | 4-{4-methoxy- 3-[3-(4-phenylpiperazin-1-yl)-2-hydroxypropoxy]phenyl}-2-pyrrolidone | 7.5 mmol | COC1=C(C=C(C=C1)C1CC(NC1)=O)OCC(CN1CCN(CC1)C1=CC=CC=C1)O | C24H31N3O4
reactant | acetic anhydride | 15 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)-2-acetoxypropoxy]phenyl}-2-pyrrolidone | 86% yield | COC1=C(C=C(C=C1)C1CC(NC1)=O)OCC(CN1CCN(CC1)C1=CC=CC=C1)OC(C)=O | C26H33N3O5
